US06858638B2
N-Phenyl-5-(3-fluorobenzenesulfonylamino)-1H-indazole-3-carboxamide can be obtained as described in Example 18 from 0.45 g of 5-(3-fluorobenzenesulfonylamino)-1H-indazole-3-carboxylic acid, 11 ml of dimethylformamide, 0.56 g of 0-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate, 0.38 g of diisopropylethylamine and 0.14 g of aniline. 70 mg of N-phenyl-5-(3-fluorobenzenesulfonylamino)-1H-indazole-3-carboxamide are thus obtained in the form of a brown solid melting above 260° C. (Analysis: C20H15FN4O3S.0.73H2O % calculated C, 58.54; H, 3.68; F, 4.63; N, 13.65; O, 11.69; S, 7.81. % found C, 58.09; H, 3.18; N, 13.58; S, 7.43).

reactant | 5-(3-fluorobenzenesulfonylamino)-1H-indazole-3-carboxylic acid | 0.45 g | FC=1C=C(C=CC1)S(=O)(=O)NC=1C=C2C(=NNC2=CC1)C(=O)O | C14H10FN3O4S
reactant | 0-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.56 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 0.38 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | aniline | 0.14 g | NC1=CC=CC=C1 | C6H7N
solvent | dimethylformamide | 11 ml | CN(C=O)C | C3H7NO
product | N-phenyl-5-(3-fluorobenzenesulfonylamino)-1H-indazole-3-carboxamide | 70 mg | C1(=CC=CC=C1)NC(=O)C1=NNC2=CC=C(C=C12)NS(=O)(=O)C1=CC(=CC=C1)F | C20H15FN4O3S
